US08314138B2
Part B. To a solution of 4-methyl-2-[6-((E)-3-phenyl-propenyl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide (39 mg, 0.09 mmol, 1.0 equiv) in ethyl acetate was added Pd/C (15 mg, 10%). The flask was first purged with nitrogen, then with hydrogen. The reaction mixture was stirred at ambient temperature for 60 hr and monitored by LCMS. Upon completion, the reaction mixture was diluted with ethyl acetate, filtered through Celite and concentrated in vacuo. The crude product was purified by prep HPLC (acetonitrile/water, 0.1% trifluoroacetic acid) to afford 4-methyl-2-[6-(3-phenyl-propyl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide (19 mg, 60%). 1H NMR (400 MHz, CD2Cl2) δ 9.14 (s, 1H), 9.12 (s, 1H), 7.14-7.36 (m, 10H), 6.23 (bs, 1H), 4.59 (d, J=8.0 Hz, 2H), 2.86 (t, J=8.0 Hz, 2H), 2.72 (s, 3H), 2.69-2.72 (m, 2H), 2.07-2.15 (m, 21-1); HRMS (M+H)+=429.17.

reactant | 4-methyl-2-[6-((E)-3-phenyl-propenyl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide | 0.09 mmol, 39 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)\C=C\CC1=CC=CC=C1)C | C25H22N4OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 4-methyl-2-[6-(3-phenyl-propyl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide | 19 mg, 60% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)CCCC1=CC=CC=C1)C | C25H24N4OS
